US07648980B2
(a) 1,1-dimethylethyl 7-oxabicyclo[2.2.1]hept-5-en-2-ylcarbamate
To a solution of 7-oxabicyclo[2.2.1]hept-5-en-2-amine (3 g, 27.0 mmol, 4:1 endo-exo) in THF/CH3CN (150 mL, 4:1) at 25° C. was added bis(1,1-dimethylethyl) dicarbonate (7.08 g, 32.4 mmol). After 0.5 h, the solution was concentrated and the residue purified by column chromatography (silica, 0-1% MeOH in DCM (1% NH4OH)) affording the title compound as a sticky white solid (5.3 g, 93%): LC/MS (ES) m/e 212 (M+H)+.

reactant | 7-oxabicyclo[2.2.1]hept-5-en-2-amine | 27.0 mmol, 3 g | C12C(CC(C=C1)O2)N | C6H9NO
reactant | bis(1,1-dimethylethyl) dicarbonate | 32.4 mmol, 7.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF CH3CN | 150 mL | C1CCOC1.CC#N
product | 1,1-dimethylethyl 7-oxabicyclo[2.2.1]hept-5-en-2-ylcarbamate | 5.3 g, 93% | C12C(CC(C=C1)O2)NC(OC(C)(C)C)=O | C11H17NO3
